2185-07-14 06:10:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2185-7-13**] 08:00 AM
 SPUTUM CULTURE - At [**2185-7-13**] 11:00 AM
 ARTERIAL LINE - START [**2185-7-13**] 12:42 PM
 BLOOD CULTURED - At [**2185-7-13**] 01:00 PM
 MULTI LUMEN - START [**2185-7-13**] 02:20 PM
 PICC LINE - STOP [**2185-7-13**] 04:00 PM
 MULTI LUMEN - [**2185-7-13**] 06:00 PM
   Worsening Pa02. Increased FI02 to 60%.Suctioned for mod amts thick bld
   tinged secretions. No RSBI
   Worsening CXR. Gave Lasix 10mg IV bolus
   Decreasing U output. Tried bolus of 250mL without effect. Then tried
   500mL again without effect. Pt was initially clinically dry with dry
   MMM and axillae. After fluids seems better in that regard. No major
   changes in pulm exam
   Falling Hb from 10.2 to 8.1
   Stool guaiac positive
   Blood pressure stable to high, responded to fantanyl
   ECHO and BRONCH hopefully today (not done yesterday)
   Allergies:
   Hydrochlorothiazide
   Unknown;
   Last dose of Antibiotics:
   Ceftazidime - [**2185-7-13**] 06:00 AM
   Levofloxacin - [**2185-7-13**] 03:00 PM
   Piperacillin - [**2185-7-13**] 06:00 PM
   Vancomycin - [**2185-7-14**] 04:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2185-7-14**] 05:30 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2185-7-13**] 11:00 AM
   Midazolam (Versed) - [**2185-7-14**] 05:00 AM
   Fentanyl - [**2185-7-14**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-7-14**] 06:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.1
C (96.9
   HR: 106 (88 - 118) bpm
   BP: 152/67(101) {109/49(72) - 157/71(111)} mmHg
   RR: 25 (19 - 30) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 60 Inch
    CVP: 6 (1 - 6)mmHg
   Total In:
                                                                  5,431 mL
                                                                  1,288 mL
   PO:
   TF:
                                                                     90 mL
                                                                    137 mL
   IVF:
                                                                  3,251 mL
                                                                  1,151 mL
   Blood products:
   Total out:
                                                                  1,134 mL
                                                                    185 mL
   Urine:
                                                                    694 mL
                                                                    185 mL
   NG:
                                                                     40 mL
   Stool:
   Drains:
   Balance:
                                                                  4,297 mL
                                                                  1,103 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 340 (340 - 450) mL
   RR (Set): 25
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 60%
   RSBI Deferred: No Spon Resp
   PIP: 22 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: 7.45/40/69/28/3
   Ve: 9 L/min
   PaO2 / FiO2: 115
   Physical Examination
   GEN intubated
   HEENT: MMM, JVD halfway to the angle of the jaw at 30 degrees, blood in
   the L nare and lips
   CV: RRR tachycardic, S1S2 NL no S3S4.
   PULM: Coarse ronchi bilaterally. Some crackles greatest in the L base
   ABD: BS+, but decreasing in frequency. NTND no masses or HSM. Shifting
   dullness
   SKIN: diffuse anasarca
   Labs / Radiology
   51 K/uL
   8.1 g/dL
   138 mg/dL
   0.3 mg/dL
   28 mEq/L
   4.2 mEq/L
   35 mg/dL
   105 mEq/L
   140 mEq/L
   23.4 %
   1.7 K/uL
        [image002.jpg]
                             [**2185-7-13**]  04:50 AM
                             [**2185-7-13**]  03:44 PM
                             [**2185-7-13**]  03:56 PM
                             [**2185-7-13**]  10:02 PM
                             [**2185-7-14**]  03:45 AM
                             [**2185-7-14**]  03:48 AM
                             [**2185-7-14**]  05:53 AM
   WBC
   6.7
   1.7
   Hct
   29.8
   23.4
   Plt
   103
   51
   Cr
   0.4
   0.4
   0.3
   TropT
   0.06
   0.06
   TCO2
   31
   32
   29
   29
   Glucose
   [**Telephone/Fax (2) 4286**]
   Other labs: PT / PTT / INR:13.1/22.7/1.1, CK / CKMB /
   Troponin-T:32//0.06, Differential-Neuts:76.0 %, Band:16.0 %, Lymph:4.0
   %, Mono:0.0 %, Eos:0.0 %, Lactic Acid:1.9 mmol/L, Ca++:7.7 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   This is an 84 yof with hx of CAD s/p MI, HTN, Hyperlipdemia, PVD, PE
   s/p IVC filter placement, Coomb's positive hemolytic anemia, possible
   CHF who was transferred to [**Hospital1 54**] for respiratory failure.
   # Respiratory Failure:  Patient presented to [**Hospital1 54**] intubated in
   respiratory failure presumed [**1-1**] CHF and PNA with elevated BNP and CTA
   showing bilateral consolidations. There is also concern for co-existing
   ARDS. Patient started on empiric antibiotics and ARDS ventilation.
   -          cont vanco, zosyn, and levo (d/c levo if Legionella antigen
   negative)
   -          cont Assist Control ventilation with Vt 340, PEEP 10 FIO2
   0.50
   -          monitor oxygen status, if worsens, consider diuresis
   -          sputum Gram stain, culture, acid fast, Legionella, fungal
   pending
   -          urinary Legionella Ag pending
   -          Bronchoscopy today
   -          Low threshold for PCP treatment given prolonged steroid use
   for Anemia
   # Hypotension:  Most likely in setting of intubation and
   Fentanyl/Versed.  Now resolved.
   # CHF:  Patient with history of CHF, unknown type, unknown EF
   -          ECHO today
   -          Hold, Aldactone, ACEi, BB
   -          Lasix as needed depending on ECHO results
   # CAD s/p MI:  Hx of MI.
   -          ASA 81mg NG tube
   -          Hold statin, BB, ACEi
   # DM: on metformin at home.
   -          hold metformin while in ICU
   -          QID fingersticks
   -          Insulin drip for glucose control
   # PE: ?history of IVC filter placement, no filter on CT scan
   -          Pneumoboots for now, no Heparin given ?HIT
   # Anemia: Coombs positive hemolytic anemia be report followed at MtA.
   On solumendrol 60mg IV daily. Concern for diffuse alveolar hemorrhage,
   retroperitoneal hematoma, hemolysis, DIC
   -          cont Solumedrol daily
   -          Fe studies and B12 Folate NL.
   -          DIC labs NL
   -          Hemolysis labs today
   -          Consult H/O
   -          Check smear
   -          Guaiac positive
   # Thrombocytopenia: persistent this admission
   -          Known history of HIT.
   -          Avoid all heparin products
   -          Check smear
   -          Consult H/O
   # Leukopenia: New today with impending neutropenia
   -          Etiology unclear.
   -          [**Name2 (NI) 4300**]rn for MDS/myeloproliferative process v infection
   -          Check smear
   -          Consult H/O
   # HTN: hold home BB, ACEi, Lasix, Aldactone, Diltiazem
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2185-7-13**] 03:00 PM 30 mL/hour
   Glycemic Control:  insulin drip
   Lines:
   Arterial Line - [**2185-7-13**] 12:42 PM
   Multi Lumen - [**2185-7-13**] 02:20 PM
   Prophylaxis:
   DVT: heparin SC and pneumoboots
   Stress ulcer: PPI
   VAP:  Head elevation and suction
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2185-07-15 06:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2185-7-14**] 08:32 AM
   - LVEF 50%, small mildly hypertrophied LV, no MR, no AR. Low NL
   venacava pressure <10mmHg
 BRONCHOSCOPY - At [**2185-7-14**] 12:49 PM
   - Bloody BAL fluid, sent for analysis, f/u results
   Began ARDSnet vent settings, continued to require increased PEEP and
   FiO2 overnight. Now FiO2 60% 25/min PEEP 12 with improved gas
   Transfused 2 units packed RBCs, Hct 23.0 ->29.4
   Legionella urine Ag negative, d/c'd levofloxacin
   Heme Consult: Concern for bone marrow process.  Rec daily coags and
   fibrinogen, GCSF if neutropenia worsens, consider sending HIT Ab,
   consider changing abx, and possible bone marrow biopsy if pt's
   condition improves to level that she would be able to tolerate
   procedure.
   Hemolysis labs NL. No s/s DIC
   U output still low. <1L in 24 hrs, LOS bal +almost 9L
   Consistently hyperglycemic, started insulin gtt at 1 unit/hr, titrate
   to glucose of 100-150.
   Allergies:
   Hydrochlorothiazide
   Unknown;
   Last dose of Antibiotics:
   Ceftazidime - [**2185-7-13**] 06:00 AM
   Piperacillin - [**2185-7-13**] 06:00 PM
   Levofloxacin - [**2185-7-14**] 02:00 PM
   Vancomycin - [**2185-7-14**] 09:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2185-7-15**] 02:00 AM
   Infusions:
   Fentanyl - 150 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Insulin - Regular - 3 units/hour
   Other ICU medications:
   Fentanyl - [**2185-7-14**] 06:30 AM
   Furosemide (Lasix) - [**2185-7-14**] 07:30 AM
   Pantoprazole (Protonix) - [**2185-7-14**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-7-15**] 05:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98.1
   HR: 106 (96 - 125) bpm
   BP: 111/43(64) {91/43(61) - 143/65(93)} mmHg
   RR: 25 (18 - 28) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 56.4 kg (admission): 51.9 kg
   Height: 60 Inch
    CVP: 9 (0 - 12)mmHg
   Total In:
                                                                  4,024 mL
                                                                  1,430 mL
   PO:
   TF:
                                                                    823 mL
                                                                    287 mL
   IVF:
                                                                  2,716 mL
                                                                    767 mL
   Blood products:
                                                                    375 mL
                                                                    375 mL
   Total out:
                                                                    755 mL
                                                                     95 mL
   Urine:
                                                                    755 mL
                                                                     95 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,269 mL
                                                                  1,335 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 340 (340 - 340) mL
   RR (Set): 25
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 27 cmH2O
   Compliance: 22.7 cmH2O/mL
   SpO2: 99%
   ABG: 7.35/48/86.[**Numeric Identifier 96**]/25/0
   Ve: 8.6 L/min
   PaO2 / FiO2: 145
   Physical Examination
   GEN: Intubated and sedated
   HEENT: Dry MM, supple neck. No obvious JVD
   CV: difficult to assess [**1-1**] breath sounds. Distant. No obvious murmurs.
   Tachycardia ?irregular. Pulses not assessable [**1-1**] anasarca
   PULM: Coarse ronchi, crackles R base
   ABD: BS
, perhaps mild distension. No palpable masses or HSM
   SKIN: Diffuse anasarca. Petechiae on the upper chest
   Labs / Radiology
   48 K/uL
   9.8 g/dL
   248 mg/dL
   0.4 mg/dL
   25 mEq/L
   4.5 mEq/L
   38 mg/dL
   105 mEq/L
   139 mEq/L
   32
   3.0 K/uL
        [image002.jpg]
   Coombs negative                                           Lactate 2.8
   INR 1.5, PTT 25.4, Fibrinogen 493                BNP 3999 from [**Numeric Identifier 4344**]
   Hapto 493 from 550                                       Alb 1.7
   Uag for Legionella negative            Sputum GS positive for GNR,
   negative for PCP
                             [**2185-7-14**]  05:53 AM
                             [**2185-7-14**]  10:50 AM
                             [**2185-7-14**]  10:58 AM
                             [**2185-7-14**]  03:30 PM
                             [**2185-7-14**]  07:24 PM
                             [**2185-7-14**]  08:08 PM
                             [**2185-7-14**]  08:35 PM
                             [**2185-7-15**]  12:22 AM
                             [**2185-7-15**]  02:27 AM
                             [**2185-7-15**]  02:38 AM
   WBC
   1.8
   1.3
   3.0
   Hct
   22.5
   23.4
   24
   23.0
   29.4
   32
   Plt
   47
   45
   48
   Cr
   0.4
   TCO2
   29
   28
   28
   29
   28
   28
   Glucose
   206
   248
   Other labs: PT / PTT / INR:13.9/25.4/1.2, CK / CKMB /
   Troponin-T:32//0.06, ALT / AST:31/22, Alk Phos / T Bili:142/1.0,
   Amylase / Lipase:42/12, Differential-Neuts:93.2 %, Band:1.0 %,
   Lymph:1.9 %, Mono:1.0 %, Eos:1.0 %, Fibrinogen:493 mg/dL, Lactic
   Acid:2.8 mmol/L, Albumin:1.7 g/dL, LDH:524 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   This is an 84 yof with hx of CAD s/p MI, HTN, Hyperlipdemia, PVD, PE
   s/p IVC filter placement, Coomb's positive hemolytic anemia, possible
   CHF who was transferred to [**Hospital1 54**] for respiratory failure. Clinical
   status has continues to decline.
   # Respiratory Failure:  Patient presented to [**Hospital1 54**] intubated in
   respiratory failure presumed [**1-1**] CHF and PNA with elevated BNP and CTA
   showing bilateral consolidations with co-existing ARDS. Patient started
   on empiric antibiotics and ARDS ventilation.
   -          cont vanco and pip/tazo (d/ced levo o/n [**1-1**] neg Legionella
   ag)
   -          cont assist control ventilation with Vt 340, PEEP 12 FIO2
   0.60
   -          monitor oxygen status, if worsens, consider diuresis
   -          sputum Gram stain + for GNR
 on pip/tazo, culture, acid
   fast, fungal pending
   -          urinary Legionella Ag negative
   -          Bronchoscopy yesterday. Results P
   -          Still considering PCP treatment given prolonged steroid use.
   If declines, add
   # Anemia: Hx of Coombs positive hemolytic anemia. On solumendrol 60mg
   IV daily. Most likely due to toxic metabolic state plus MDS. DD
   includes diffuse alveolar hemorrhage, retroperitoneal hematoma
   -          cont Solumedrol daily
   -          Fe studies and B12 Folate NL.
   -          DIC labs NL
   -          Hemolysis labs NL
   -          H/O following
   -          Vancomycin and piparacillin both may be complicating this.
   Will change based on cultures when possible.
   # Thrombocytopenia: persistent this admission. As with anemia, most
   likely due to MDS and toxic metabolic state. HIT seems inconsistent in
   spite of HIT history
   -          Avoid all heparin products
   -          Holding ASA and NSAIDs in general
   -          H/O following.
   -          Vancomycin may be complicating this. Will change based on
   cultures when possible.
   # Leukopenia: Still low, but recovered somewhat. Etiology is most like
   MDS and toxic metabolic state, as above. [**Month (only) 60**] consider G-CSF
   -          Etiology unclear.
   -          H/O following
   # CHF:  Patient with history of CHF, unknown type, EF 50%
   -          ECHO NL with mildly reduced EF
   -          Hold, Aldactone, ACEi, BB
   -          Lasix as needed depending on pulmonary status
   # CAD s/p MI:  Hx of MI.
   -          Hold ASA given thrombocytopenia
   -          Hold statin, BB, ACEi
   # DM: on metformin at home.
   -          hold metformin while in ICU
   -          Insulin drip for glucose control
   # Hypotension:  Most likely in setting of intubation and
   Fentanyl/Versed.  Now resolved.
   # PE: ?history of IVC filter placement, no filter on CT scan
   -          Pneumoboots for now, no Heparin given ?HIT
   # HTN: hold home BB, ACEi, Lasix, Aldactone, Diltiazem
   ICU Care
   Nutrition: Tube feeds
   Glycemic Control:  insulin drip
   Lines:
   Arterial Line - [**2185-7-13**] 12:42 PM
   Multi Lumen - [**2185-7-13**] 02:20 PM
   Prophylaxis:
   DVT: SC heparin and boots
   Stress ulcer: Air bed
   VAP:  Head elevation, suction
   Comments: Pt doing poorly.
   Communication: Son, in computer:
   Code status: Full code
   Disposition: ICU for now

2185-07-16 06:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BAL FLUID CULTURE - At [**2185-7-15**] 05:28 PM
   Sputum grew pseudomonas. Vanco d/c'd. Will change from Zosyn to
   meropenum if sensitive.
   BAL cytology grew aspergillus and CMV. Started on Voriconozole 6mg/kg
   IV Q12H (300mg) for 2 doses then 4mg/kg Q12H (200mg) per ID. Held off
   on gancyclovir. ID will leave formal consult tomorrow.
   BAL samples from mini-BAL resent.
   Got 1unit pRBCs with hct 29->28.
   Heme cls said no BM biopsy as too unstable at this time and feel
   pancytopenia likely [**1-1**] sepsis. If ANC drops below 1.[**4-4**] re-consider
   neupogen.
   LOS positive 12 L
   Allergies:
   Hydrochlorothiazide
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2185-7-13**] 06:00 PM
   Levofloxacin - [**2185-7-14**] 02:00 PM
   Vancomycin - [**2185-7-15**] 08:30 AM
   Voriconazole - [**2185-7-15**] 09:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2185-7-16**] 02:07 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Insulin - Regular - 1 units/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2185-7-15**] 08:12 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-7-16**] 06:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.9
C (98.4
   HR: 100 (90 - 117) bpm
   BP: 102/35(56) {91/35(55) - 138/54(84)} mmHg
   RR: 25 (23 - 25) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 56.4 kg (admission): 51.9 kg
   Height: 60 Inch
    CVP: 7 (4 - 10)mmHg
   Total In:
                                                                  4,550 mL
                                                                    502 mL
   PO:
   TF:
                                                                  1,201 mL
                                                                    310 mL
   IVF:
                                                                  2,838 mL
                                                                    192 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                    446 mL
                                                                    156 mL
   Urine:
                                                                    446 mL
                                                                    156 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,104 mL
                                                                    346 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 340 (340 - 340) mL
   RR (Set): 25
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   Plateau: 27 cmH2O
   Compliance: 22.7 cmH2O/mL
   SpO2: 96%
   ABG: 7.33/49/71/24/0
   Ve: 8.3 L/min
   PaO2 / FiO2: 142
   Physical Examination
   GEN: Intubated, sedated
   HEENT: Pupils are small and non-reactive. Dry MM. Mild hemorrhage in
   the L nares.
   CV: RRR, NLS1S2, no S3S4 MRG or JVD
   PULM: Coarse ronchi bilat. Crackles R>L
   ABD: BS+, NTND
   LIMBS: Red, edematous R upper limb
   SKIN: Diffuse anasarca
   Labs / Radiology
   53 K/uL
   10.8 g/dL
   103 mg/dL
   0.5 mg/dL
   24 mEq/L
   4.1 mEq/L
   46 mg/dL
   104 mEq/L
   138 mEq/L
   31.3 %
   2.7 K/uL
        [image002.jpg]
   DIFFERENTIAL
                                    Neuts
                                    Bands
                                   Lymphs
                                    Monos
                                     Eos
                                    Baso
                                    Atyps
                                    Metas
                                   Myelos
                                    NRBC
   [1][**2185-7-16**] 03:55AM
                                     85*
                                     7*
                                     5*
                                      0
                                      0
                                      0
                                      0
                                     2*
                                     1*
                                     1*
   PTT 28.2   INR 1.2            ANC 2440
   BLOOD GASES
                                    Type
                                    Temp
                                    Rates
                                   Tidal V
                                    PEEP
                                    FiO2
                                   O2 Flow
                                     pO2
                                    pCO2
                                     pH
                                   calTCO2
                                   Base XS
   Intubat
                                    Vent
   [2][**2185-7-16**] 04:14AM
                                     ART
   25/
                                     326
                                     12
                                     50
   71*
                                     49*
                                    7.33*
                                     27
                                      0
                                ASSIST/CON[1]
                                  INTUBATED
   [3][**2185-7-16**] 12:49AM
                                     ART
                                    36.5
                                     25/
                                     350
   50
   65*
                                     49*
                                    7.32*
                                     26
                                     -1
                                ASSIST/CON[1]
                                  INTUBATED
   [4][**2185-7-15**] 04:59PM
                                     ART
                                    36.3
   65*
                                     46*
                                    7.36
                                     27
                                      0
                             [**2185-7-15**]  02:27 AM
                             [**2185-7-15**]  02:38 AM
                             [**2185-7-15**]  07:08 AM
                             [**2185-7-15**]  03:56 PM
                             [**2185-7-15**]  04:01 PM
                             [**2185-7-15**]  04:59 PM
                             [**2185-7-16**]  12:34 AM
                             [**2185-7-16**]  12:49 AM
                             [**2185-7-16**]  03:55 AM
                             [**2185-7-16**]  04:14 AM
   WBC
   3.0
   2.5
   2.7
   Hct
   29.4
   32
   28.5
   30.4
   31.3
   Plt
   48
   46
   53
   Cr
   0.4
   0.5
   TCO2
   28
   28
   28
   27
   26
   27
   Glucose
   248
   103
   Other labs: PT / PTT / INR:13.4/28.2/1.2, CK / CKMB /
   Troponin-T:32//0.06, ALT / AST:29/25, Alk Phos / T Bili:146/1.2,
   Amylase / Lipase:42/12, Differential-Neuts:85.0 %, Band:7.0 %,
   Lymph:5.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:493 mg/dL, Lactic
   Acid:1.4 mmol/L, Albumin:1.6 g/dL, LDH:489 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   This is an 84 yof with hx of CAD s/p MI, HTN, Hyperlipdemia, PVD, PE
   s/p IVC filter placement, Coomb's positive hemolytic anemia, possible
   CHF who was transferred to [**Hospital1 54**] for respiratory failure. Clinical
   status has continues to decline.
   # Respiratory Failure:  Patient presented to [**Hospital1 54**] intubated in
   respiratory failure presumed [**1-1**] CHF and PNA with elevated BNP and CTA
   showing bilateral consolidations with co-existing ARDS. Patient started
   on empiric antibiotics and ARDS ventilation. At this time sputum is
   positive for Pseudomonas, Asparagillus, and CMV. ID is consulting. Pt
   receiving pip/tazo, voriconazole. ID will consider gancyclovir.
   -          cont pip/tazo
   -          Give two doses of vori 300mg IVq12 then reduce to 200mg
   IVq12
   -          cont assist control ventilation per ARDS protocol
   -          monitor oxygen status, if worsens, consider diuresis
   -          Still considering PCP treatment given prolonged steroid use.
   If declines, add
   # Anemia: Hx of Coombs positive hemolytic anemia. On solumendrol 60mg
   IV daily. Most likely due to toxic metabolic state plus MDS. DD
   includes diffuse alveolar hemorrhage, retroperitoneal hematoma
   -          Received 1U pRBC o/n
   -          cont Solumedrol daily
   -          Fe studies and B12 Folate NL.
   -          DIC labs NL
   -          Hemolysis labs NL
   -          H/O following
   -          piparacillin both may be complicating this. Will change
   based on cultures when possible. Considering meropenem.
   -          Vancomycin may have been complicating this. Now D/Ced
   # Thrombocytopenia: persistent this admission. As with anemia, most
   likely due to MDS and toxic metabolic state. HIT seems inconsistent in
   spite of HIT history
   -          Avoid all heparin products
   -          Holding ASA and NSAIDs in general
   -          H/O following.
   -          Vancomycin may have been complicating this. Now D/Ced.
   # Leukopenia: Still low, but recovered somewhat. Etiology is most like
   MDS and toxic metabolic state, as above. [**Month (only) 60**] consider G-CSF
   -          Etiology unclear.
   -          H/O following
   # R upper limb ?thombophlebitis: Red and erythematous at site of old
   PICC
   -          US today
   -          Consider Abx (vanc? Again)
   # CHF:  Patient with history of CHF, unknown type, EF 50%
   -          ECHO NL with mildly reduced EF
   -          Hold, Aldactone, ACEi, BB
   -          Lasix as needed depending on pulmonary status
   # CAD s/p MI:  Hx of MI.
   -          Hold ASA given thrombocytopenia
   -          Hold statin, BB, ACEi
   # DM: on metformin at home.
   -          hold metformin while in ICU
   -          Insulin drip for glucose control
   # Hypotension:  Most likely in setting of intubation and
   Fentanyl/Versed.  Now resolved.
   # PE: ?history of IVC filter placement, no filter on CT scan
   -          Pneumoboots for now, no Heparin given ?HIT
   # HTN: hold home BB, ACEi, Lasix, Aldactone, Diltiazem
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2185-7-16**] 05:26 AM 50 mL/hour
   Glycemic Control:  insulin drip
   Lines:
   Arterial Line - [**2185-7-13**] 12:42 PM
   Multi Lumen - [**2185-7-13**] 02:20 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: Air bed
   VAP:  Head elevation, suction
   Comments: Pt doing poorly.
   Communication: Son, in computer:
   Code status: Full code
   Disposition: ICU for now
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_23%22);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_24%22);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_25%22);

2185-07-17 04:47:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2185-7-16**] 05:20 PM - showed occlusive right axillary
   vein thrombus. Considering anticoagulation (argatroban - NOT heparin)
   Spoke to son, now DNR but continue to treat
   Now on voriconazole 200mgIVq12, report of Aspergillus, though not
   currently in OMR.
   Psuedomonas sensitive to meropenem. Consider switch from pip/tazo
   considering H.O recs
   Improving ABG
   Tachycardia to 150s, maintaining BP with O2 sats in mid-90s.  Initally
   improved with increased sedation.
   Allergies:
   Hydrochlorothiazide
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2185-7-14**] 02:00 PM
   Vancomycin - [**2185-7-15**] 08:30 AM
   Voriconazole - [**2185-7-16**] 09:15 PM
   Piperacillin/Tazobactam (Zosyn) - [**2185-7-17**] 02:00 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Insulin - Regular - 0.5 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2185-7-16**] 07:52 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-7-17**] 04:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 38
C (100.4
   HR: 104 (98 - 114) bpm
   BP: 119/52(76) {93/35(56) - 147/61(93)} mmHg
   RR: 1 (1 - 27) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 56.4 kg (admission): 51.9 kg
   Height: 60 Inch
    CVP: 1 (1 - 14)mmHg
   Total In:
                                                                  2,092 mL
                                                                    392 mL
   PO:
   TF:
                                                                  1,200 mL
                                                                    232 mL
   IVF:
                                                                    862 mL
                                                                    160 mL
   Blood products:
   Total out:
                                                                    624 mL
                                                                     87 mL
   Urine:
                                                                    624 mL
                                                                     87 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,468 mL
                                                                    305 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 340 (340 - 340) mL
   RR (Set): 25
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   Plateau: 24 cmH2O
   Compliance: 28.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.35/45/80.[**Numeric Identifier 248**]/24/0
   Ve: 8.9 L/min
   PaO2 / FiO2: 160
   Physical Examination
   Gen: supine, intubated
   HEENT: Intubated, dried blood at L nares,
   Chest:  Bl ronchi
   CV: RRR, nl S1S2
   Abd: soft, ND
   Skin:  diffuse anasarca
   Ext: RUE swollen and red > LUE
   Neuro/Psych: sedated
   Labs / Radiology
   44 K/uL
   9.7 g/dL
   135 mg/dL
   0.5 mg/dL
   24 mEq/L
   3.2 mEq/L
   47 mg/dL
   105 mEq/L
   139 mEq/L
   28.3 %
   2.3 K/uL
        [image002.jpg]
                             [**2185-7-15**]  03:56 PM
                             [**2185-7-15**]  04:01 PM
                             [**2185-7-15**]  04:59 PM
                             [**2185-7-16**]  12:34 AM
                             [**2185-7-16**]  12:49 AM
                             [**2185-7-16**]  03:55 AM
                             [**2185-7-16**]  04:14 AM
                             [**2185-7-16**]  04:03 PM
                             [**2185-7-17**]  02:59 AM
                             [**2185-7-17**]  03:17 AM
   WBC
   2.5
   2.7
   2.3
   Hct
   28.5
   30.4
   31.3
   28.3
   Plt
   46
   53
   44
   Cr
   0.5
   0.5
   TCO2
   28
   27
   26
   27
   26
   26
   Glucose
   103
   135
   Other labs: PT / PTT / INR:13.3/29.6/1.1, CK / CKMB /
   Troponin-T:32//0.06, ALT / AST:29/28, Alk Phos / T Bili:173/1.1,
   Amylase / Lipase:42/12, Differential-Neuts:85.0 %, Band:7.0 %,
   Lymph:5.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:493 mg/dL, Lactic
   Acid:1.8 mmol/L, Albumin:1.6 g/dL, LDH:435 IU/L, Ca++:7.4 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Imaging:
   CXR [**7-17**] shows increased airspace opacity in right lung per my read.
   Assessment and Plan
   This is an 84 yof with hx of CAD s/p MI, HTN, Hyperlipdemia, PVD, PE
   s/p IVC filter placement, Coomb's positive hemolytic anemia, possible
   CHF who was transferred to [**Hospital1 54**] for respiratory failure. Clinical
   status has continued to decline. At this time she is intubated with
   PNA  with known Pseudamonas and CMV, as well as reported Aspirgillus.
   She also has a  R axillary DVT, and anasarca.
   # Respiratory Failure:  Patient presented to [**Hospital1 54**] intubated in
   respiratory failure presumed [**1-1**] CHF and PNA with elevated BNP and CTA
   showing bilateral consolidations with co-existing ARDS. Patient started
   on empiric antibiotics and ARDS ventilation. At this time sputum is
   positive for Pseudomonas, Aspirgillus, and CMV. ID is consulting. Pt
   receiving pip/tazo, voriconazole. ID will consider gancyclovir.
   -          the Aspirgillus was per phone report, will f/u with
   cytology/micro on Monday, continue voriconazole in interim
   -          cont pip/tazo
   -          Now on vori 200mg IVq12
   -          cont assist control ventilation per ARDS protocol
   -          monitor oxygen status, if worsens, consider diuresis. As of
   now ABG improving
   -          Had been considering PCP treatment given prolonged steroid
   use, however, unlikely at this point given known bacterial infection.
   # RUE Axillary DVT: Red and erythematous at site of old PICC
   -          US yesterday showed an occlussive thrombus of the R axillary
   vein
   -          [**Month (only) 60**] be a chronic problem given report of discoloration from
   family
   -          Consider anticoagulation with argatroban given concern for
   HIT, though will hold off for now, as axillary clots typically stable
   and pt at risk of bleeding from multiple other sources.
   -          Try changing positioning to reduce edema
   -          Re-site A-line to left arm and subsequently d/c R a-line
   # Anemia: Hx of Coombs positive hemolytic anemia. On solumendrol 60mg
   IV daily. Most likely due to toxic metabolic state plus MDS. DD
   includes diffuse alveolar hemorrhage, retroperitoneal hematoma
   -          Received 1U pRBC yesterday. HCT/Hb 28.3, down from 31.3 on
   [**7-16**].
   -          transfuse 1 Unit PRBCs [**7-17**], f/u psot-transfusion Hct
   -          cont Solumedrol daily at home dose, not stress dose
   -          Fe studies and B12 Folate NL.
   -          DIC labs NL
   -          Hemolysis labs NL
   -          H/O following
   -          piparacillin both may be complicating this. Considering
   meropenem given sensitivity of her Pseudomonas, will hold off for now
   -          Vancomycin may have been complicating this. Now D/Ced
   # Thrombocytopenia: persistent this admission. As with anemia, most
   likely due to MDS and toxic metabolic state. HIT seems inconsistent in
   spite of HIT history
   -          Avoid all heparin products
   -          Holding ASA and NSAIDs in general
   -          H/O following.
   -          Vancomycin may have been complicating this. Now D/Ced.
   # Leukopenia: Still low, but recovered somewhat. Etiology is most like
   MDS and toxic metabolic state, as above. [**Month (only) 60**] consider G-CSF
   -          Etiology unclear.
   -          H/O following
   # CHF:  Patient with history of CHF, unknown type, EF 50%
   -          ECHO NL with mildly reduced EF
   -          Hold, Aldactone, ACEi, BB
   -          Lasix as needed depending on pulmonary status
   # CAD s/p MI:  Hx of MI.
   -          Hold ASA given thrombocytopenia
   -          Hold statin, BB, ACEi
   # DM: on metformin at home.
   -          hold metformin while in ICU
   -          Insulin drip for glucose control
   # Hypotension:  Most likely in setting of intubation and
   Fentanyl/Versed.
   - continues to be hypotensive with position changes
   - receiving 1 unit PRBCs
   # PE: ?history of IVC filter placement, no filter on CT scan
   -          Pneumoboots for now, no Heparin given ?HIT
   # HTN: hold home BB, ACEi, Lasix, Aldactone, Diltiazem
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2185-7-16**] 05:26 AM 50 mL/hour
   Glycemic Control:  Insulin infusion, Blood sugar well controlled
   Lines:
   Arterial Line - [**2185-7-13**] 12:42 PM
   Multi Lumen - [**2185-7-13**] 02:20 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:  PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Family meeting held  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2185-07-18 06:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PAN CULTURE - At [**2185-7-17**] 10:24 AM
 FEVER - 101.1
F - [**2185-7-17**] 12:00 PM
   Hypotensive, restarted Levophed.  500 cc bolus in evening.  Considered
   adding Vasopressin, maintained pressures without it.
   1 Unit PRBCs Hct 28.3->40.1
   Discussed situation with family, understand pressors are escalation of
   care, and want to continue.
   Allergies:
   Hydrochlorothiazide
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2185-7-15**] 08:30 AM
   Voriconazole - [**2185-7-17**] 08:01 PM
   Piperacillin/Tazobactam (Zosyn) - [**2185-7-18**] 05:30 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 50 mcg/hour
   Norepinephrine - 0.15 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2185-7-17**] 08:21 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-7-18**] 06:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.4
C (99.3
   HR: 120 (101 - 151) bpm
   BP: 128/48(77) {58/36(45) - 180/76(114)} mmHg
   RR: 20 (19 - 30) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 70 kg (admission): 51.9 kg
   Height: 60 Inch
    CVP: 9 (7 - 15)mmHg
   Total In:
                                                                  2,381 mL
                                                                    296 mL
   PO:
   TF:
                                                                    672 mL
   IVF:
                                                                  1,134 mL
                                                                    296 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                    652 mL
                                                                    110 mL
   Urine:
                                                                    652 mL
                                                                    110 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,729 mL
                                                                    186 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 340 (340 - 340) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 90%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   Plateau: 25 cmH2O
   Compliance: 26.2 cmH2O/mL
   SpO2: 95%
   ABG: 7.34/43/62/22/-2
   Ve: 10.4 L/min
   PaO2 / FiO2: 69
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   72 K/uL
   13.7 g/dL
   104 mg/dL
   0.7 mg/dL
   22 mEq/L
   4.6 mEq/L
   56 mg/dL
   104 mEq/L
   137 mEq/L
   41.6 %
   2.3 K/uL
        [image002.jpg]
                             [**2185-7-17**]  02:59 AM
                             [**2185-7-17**]  03:17 AM
                             [**2185-7-17**]  07:48 AM
                             [**2185-7-17**]  02:50 PM
                             [**2185-7-17**]  05:40 PM
                             [**2185-7-17**]  05:52 PM
                             [**2185-7-17**]  09:09 PM
                             [**2185-7-18**]  12:24 AM
                             [**2185-7-18**]  03:48 AM
                             [**2185-7-18**]  04:05 AM
   WBC
   2.3
   Hct
   28.3
   40.1
   41.6
   Plt
   44
   72
   Cr
   0.5
   0.6
   0.7
   TCO2
   26
   24
   24
   23
   23
   23
   24
   Glucose
   135
   194
   104
   Other labs: PT / PTT / INR:13.3/28.4/1.1, CK / CKMB /
   Troponin-T:32//0.06, ALT / AST:29/28, Alk Phos / T Bili:173/1.1,
   Amylase / Lipase:42/12, Differential-Neuts:82.0 %, Band:12.0 %,
   Lymph:2.0 %, Mono:2.0 %, Eos:0.0 %, Fibrinogen:648 mg/dL, Lactic
   Acid:1.4 mmol/L, Albumin:1.6 g/dL, LDH:435 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.6 mg/dL, PO4:3.9 mg/dL
   CXR: PTX in RLL
   Assessment and Plan
   This is an 84 yof with hx of CAD s/p MI, HTN, Hyperlipdemia, PVD, PE
   s/p IVC filter placement, Coomb's positive hemolytic anemia, possible
   CHF who was transferred to [**Hospital1 54**] for respiratory failure. Clinical
   status has continued to decline. At this time she is intubated with
   PNA  with known Pseudamonas and CMV, as well as reported Aspirgillus.
   She also has a  R axillary DVT, and anasarca.
   # Respiratory Failure:  Patient presented to [**Hospital1 54**] intubated in
   respiratory failure presumed [**1-1**] CHF and PNA with elevated BNP and CTA
   showing bilateral consolidations with co-existing ARDS. Patient started
   on empiric antibiotics and ARDS ventilation. At this time sputum is
   positive for Pseudomonas, Aspirgillus, and CMV. ID is consulting. Pt
   receiving pip/tazo, voriconazole. ID will consider gancyclovir. Pt
   developed right-sided PTX today while on the ventilator
 looks like it
   is associated with the pre-existing cavitary lesion in the RLL.
   -          cont assist control ventilation per ARDS protocol
   -------PTX: Likely the cause of her increased FiO2 requirements as well
   as the pressor requirements. CT surgery was consulted and placed a
   chest tube. Patient
s follow-up CXR showed better aeration throughout
   both lungs. We will follow her O2 requirements and try to wean down the
   FiO2 today now that both lungs are aerating. Will also wean off
   pressors if able.
   ---------PNA: PSA in sputum. Aspirgillus and CMV in BAL sample was per
   phone report, will f/u with cytology/micro, continue voriconazole in
   interim and  cont pip/tazo as sensitive to this antibiotic. Was some
   concern about BM depression with Pip-Tazo but now counts of all cell
   lines recovering so will not switch ABx unless recommended by ID.
   # RUE Axillary DVT: Red and erythematous at site of old PICC
   -          US yesterday showed an occlussive thrombus of the R axillary
   vein
   -          [**Month (only) 60**] be a chronic problem given report of discoloration from
   family
   -          Consider anticoagulation with argatroban given concern for
   HIT, though will hold off for now, as axillary clots typically stable
   and pt at risk of bleeding from multiple other sources.
   -          Try changing positioning to reduce edema
   # Anemia: Hx of Coombs positive hemolytic anemia. On solumendrol 60mg
   IV daily. Most likely due to toxic metabolic state plus MDS. DD
   includes diffuse alveolar hemorrhage, retroperitoneal hematoma
   -          Received 1U pRBC [**2185-7-17**]. Hct now in 40s although may be
   intravascularly depleted.
   -          transfuse 1 Unit PRBCs [**7-17**], f/u psot-transfusion Hct
   -          cont Solumedrol daily at home dose,  and will wean off as
   able over next few days.
   -          Fe studies and B12 Folate NL.
   -          DIC labs NL
   -          Hemolysis labs NL
   -          H/O following
   -          piparacillin both may be complicating this. Considering
   meropenem given sensitivity of her Pseudomonas, will hold off for now
   -          Vancomycin may have been complicating this. Now D/Ced
   # Thrombocytopenia: persistent this admission. As with anemia, most
   likely due to MDS and toxic metabolic state. HIT seems inconsistent in
   spite of HIT history
   -          Avoid all heparin products
   -          Holding ASA and NSAIDs in general
   -          H/O following.
   -          Vancomycin may have been complicating this. Now D/Ced.
   # Leukopenia: Still low, but recovered somewhat. Etiology is most like
   MDS and toxic metabolic state, as above. [**Month (only) 60**] consider G-CSF
   -          Etiology unclear.
   -          H/O following
   # CHF:  Patient with history of CHF, unknown type, EF 50%
   -          ECHO NL with mildly reduced EF
   -          Hold, Aldactone, ACEi, BB
   -          Lasix as needed depending on pulmonary status
   # CAD s/p MI:  Hx of MI.
   -          Hold ASA given thrombocytopenia
   -          Hold statin, BB, ACEi
   # DM: on metformin at home.
   -          hold metformin while in ICU
   -          Insulin drip for glucose control
   # Hypotension:  Most likely in setting of PTX. Will try to wean off
   levophed once pt stable after chest tube placed
   - continues to be hypotensive with position changes
   - receiving 1 unit PRBCs
   # PE: ?history of IVC filter placement, no filter on CT scan
   -          Pneumoboots for now, no Heparin given ?HIT
   # HTN: hold home BB, ACEi, Lasix, Aldactone, Diltiazem
   ICU Care
   Nutrition: Tube feeds being held
   Glycemic Control:  Insulin infusion
   Lines:
   Arterial Line - [**2185-7-13**] 12:42 PM
   Multi Lumen - [**2185-7-13**] 02:20 PM
   Prophylaxis:
   DVT:  can
t tolerate pneumoboots as gets severe ecchymoses and cant
   tolerate SC heparin b/c of coagulopathy
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: In ICU for now

2185-07-18 09:12:00 Physician Attending Progress Note
Chief Complaint: respiratory failure.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   84 y/o with h/o CAD/CHF, PVD, PE s/p IVC filter, subclavian line with
   prior complications. Coombs + anemia on chronic steroids.  Admitted to
   OSH with respiratory failure, and PNA.  Tranferred here - spiking
   temps. RLL cavitary lesion, BAL with aspirgerllus and pseudomonas and
   CMV.  Yesterday restarted on pressors.  CXR with  PTX yesterday.
   24 Hour Events:
 PAN CULTURE - At [**2185-7-17**] 10:24 AM
 FEVER - 101.1
F - [**2185-7-17**] 12:00 PM
   Allergies:
   Hydrochlorothiazide
   Unknown;
   Last dose of Antibiotics:
   Voriconazole - [**2185-7-17**] 08:01 PM
   Piperacillin/Tazobactam (Zosyn) - [**2185-7-18**] 05:30 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 50 mcg/hour
   Norepinephrine - 0.15 mcg/Kg/min
   Other ICU medications:
   Other medications:
   protonix
   chlorhex
   prednisone 60mg qd
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-7-18**] 09:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.4
C (99.3
   HR: 120 (101 - 151) bpm
   BP: 128/48(77) {58/36(45) - 178/76(112)} mmHg
   RR: 20 (19 - 30) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 70 kg (admission): 51.9 kg
   Height: 60 Inch
   CVP: 9 (7 - 14)mmHg
   Total In:
                                                                  2,381 mL
                                                                    372 mL
   PO:
   TF:
                                                                    672 mL
   IVF:
                                                                  1,134 mL
                                                                    372 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                    652 mL
                                                                    125 mL
   Urine:
                                                                    652 mL
                                                                    125 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,729 mL
                                                                    247 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 340 (340 - 340) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 90%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   Plateau: 27 cmH2O
   Compliance: 22.7 cmH2O/mL
   SpO2: 95%
   ABG: 7.34/43/62/22/-2
   Ve: 10.5 L/min
   PaO2 / FiO2: 69
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: right side), right
   side of thorax is hyperexpanded
   Abdominal: Soft, Non-tender
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   13.7 g/dL
   72 K/uL
   104 mg/dL
   0.7 mg/dL
   22 mEq/L
   4.6 mEq/L
   56 mg/dL
   104 mEq/L
   137 mEq/L
   41.6 %
   10.0 K/uL
        [image002.jpg]
                             [**2185-7-17**]  02:59 AM
                             [**2185-7-17**]  03:17 AM
                             [**2185-7-17**]  07:48 AM
                             [**2185-7-17**]  02:50 PM
                             [**2185-7-17**]  05:40 PM
                             [**2185-7-17**]  05:52 PM
                             [**2185-7-17**]  09:09 PM
                             [**2185-7-18**]  12:24 AM
                             [**2185-7-18**]  03:48 AM
                             [**2185-7-18**]  04:05 AM
   WBC
   2.3
   10.0
   Hct
   28.3
   40.1
   41.6
   Plt
   44
   72
   Cr
   0.5
   0.6
   0.7
   TCO2
   26
   24
   24
   23
   23
   23
   24
   Glucose
   135
   194
   104
   Other labs: PT / PTT / INR:13.3/28.4/1.1, CK / CKMB /
   Troponin-T:32//0.06, ALT / AST:29/28, Alk Phos / T Bili:173/1.1,
   Amylase / Lipase:42/12, Differential-Neuts:85.0 %, Band:1.0 %,
   Lymph:8.0 %, Mono:2.0 %, Eos:0.0 %, Fibrinogen:648 mg/dL, Lactic
   Acid:1.4 mmol/L, Albumin:1.6 g/dL, LDH:435 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.6 mg/dL, PO4:3.9 mg/dL
   Microbiology: BAL PSA sensitive to meropenenem
   Assessment and Plan
   Respiratory failure:  Multilobar PNA. Evidence of PSA and aspergillus.
   continue zosyna and voriconazole.
   Pneumothorax:  Large right pneumothorax could be due to rupture of
   prior cavity versus of re-opening of prior PTX from line complication.
   Given much worse oxygenation and new pressor requirement, feel that she
   is too unstable to get Chest CT.  Will contact IP for chest tube.
   Coombs+ Anemia:  Hct  stable. will discuss with heme about reducing
   steroids
   Thrombocytopenia:  h/o of +PF4 ab, but SRA negative
   RUL DVT:  Not treatment currently
   CAD
   HOTN:  [**Month (only) 60**] be due to PTX.
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Arterial Line - [**2185-7-13**] 12:42 PM
   Multi Lumen - [**2185-7-13**] 02:20 PM
   Prophylaxis:
   DVT: IVC filter(Systemic anticoagulation: Other)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   PE:
   GEN: Lying in bed intubated.
   HEENT: NC/AT Intubated.
   LUNGS: Crackles BL
   HEART: RRR
   ABD: + BS
   EXTREM: Anasarca
   NEURO: Sedated.
   ------ Protected Section Addendum Entered By:[**Name (NI) 838**] [**Last Name (NamePattern1) 4352**], MD
   on:[**2185-7-18**] 16:08 ------

2185-07-19 06:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 CHEST TUBE PLACED - At [**2185-7-18**] 09:30 AM
   R. sided [**3-5**] intercostal space chest tube for pneumothorax, to
   waterseal, no suction at this time
   #. PTX on CXR yesterday. CT placed CT. Patient was initially better
   with BPs increased and HRs down. Then BPs started to trend down with
   Increasing HR. Patient received 2X 500Ns bolus and then was started on
   1L D5Ns at 75ml/hour to maintain pressures. Ultimately another CXR was
   obtained that showed no resolution of the PTX and the chest tube seemed
   to have fallen out slightly. When it was replaced the patient began to
   do better clinically with decreased HRs and increased BPs. Developed
   mucous plug at around 2am. SBPs dropped to 60s and Hr up to 150s with
   sats ~88% on 100% FiO2. ABG:7.31/38/47. Suctioned out large sputum plug
   and sats came up, BPs came up, and HRs went down to high 90s.
   #. She also converted into Afib with RVR (rate around 150). An EKG was
   done confirming this and showing ST depressions in V2. She was given
   5mg lopressor then 20mg IV diltiazem and rates came down into the 100s
   with BP 100/50.  All of her electrolytes were WNL at the time. She then
   developed HRs in the 150s. Given another 5mg lopressor which dropped
   her BPs to the 80s/40s and did not change her HR. Hct was down to 32
   from 42 in the am and lactate was elevated at 3.2 with  MvO2 of 77%.
   UOP was around 15-30mL/hr. Decided to give her 1unit pRBCs to try to
   increased O2 delivery.
   #. ID has been following and recommended meropenem instead of zosyn to
   treat pseudomonas in sputum as MIC was high for zosyn and lower for
   meropenem. the antibiotics were thus switched.
   #. Heme/onc suggested weaning steroids very slowly (Qweek) to ensure no
   AI. Will likely start weaning today.
   Allergies:
   Hydrochlorothiazide
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2185-7-18**] 02:00 PM
   Voriconazole - [**2185-7-18**] 08:01 PM
   Meropenem - [**2185-7-19**] 04:42 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2185-7-18**] 08:00 AM
   Dextrose 50% - [**2185-7-18**] 02:19 PM
   Diltiazem - [**2185-7-18**] 06:00 PM
   Metoprolol - [**2185-7-18**] 11:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-7-19**] 06:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 36.4
C (97.5
   HR: 81 (81 - 152) bpm
   BP: 94/49(64) {72/38(50) - 168/64(98)} mmHg
   RR: 30 (18 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70 kg (admission): 51.9 kg
   Height: 60 Inch
    CVP: 10 (8 - 10)mmHg
   CO/CI (Fick): (6.7 L/min) / (4.6 L/min/m2)
   Mixed Venous O2% Sat: 77 - 77
   Total In:
                                                                  3,446 mL
                                                                  1,323 mL
   PO:
   TF:
   IVF:
                                                                  3,161 mL
                                                                  1,323 mL
   Blood products:
                                                                    250 mL
   Total out:
                                                                    422 mL
                                                                    100 mL
   Urine:
                                                                    387 mL
                                                                     60 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,024 mL
                                                                  1,224 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 340 (340 - 340) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 90%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 28 cmH2O
   Plateau: 23 cmH2O
   SpO2: 97%
   ABG: 7.28/37/66/18/-8
   Ve: 10.3 L/min
   PaO2 / FiO2: 73
   Physical Examination
   General Appearance: Not Well nourished, Thin,
   Head, Ears, Nose, Throat: Poor dentition, Endotracheal tube, Bleeding
   around oral mucosa
   Cardiovascular: Irregularly irregular with rate in 80s
   LUNGS: Poor breath sounds bilaterally with crackles bilaterally
   Extrem: Severely edematous with anasarca.
   Neurologic: Sedated. Intubated. Non-responsive.
   Labs / Radiology
   35 K/uL
   11.3 g/dL
   151 mg/dL
   0.9 mg/dL
   18 mEq/L
   4.1 mEq/L
   60 mg/dL
   109 mEq/L
   141 mEq/L
   33.8 %
   2.7 K/uL
        [image002.jpg]
                             [**2185-7-18**]  03:48 AM
                             [**2185-7-18**]  04:05 AM
                             [**2185-7-18**]  11:25 AM
                             [**2185-7-18**]  08:07 PM
                             [**2185-7-18**]  08:15 PM
                             [**2185-7-18**]  09:20 PM
                             [**2185-7-19**]  12:25 AM
                             [**2185-7-19**]  01:57 AM
                             [**2185-7-19**]  04:26 AM
                             [**2185-7-19**]  04:35 AM
   WBC
   10.0
   2.2
   2.7
   Hct
   41.6
   32.1
   33.1
   33.8
   Plt
   72
   36
   35
   Cr
   0.7
   0.8
   0.9
   TCO2
   24
   20
   19
   20
   18
   Glucose
   104
   202
   179
   161
   156
   151
   Other labs: PT / PTT / INR:13.3/28.4/1.1, CK / CKMB /
   Troponin-T:32//0.06, ALT / AST:29/28, Alk Phos / T Bili:173/1.1,
   Amylase / Lipase:42/12, Differential-Neuts:85.0 %, Band:1.0 %,
   Lymph:8.0 %, Mono:2.0 %, Eos:0.0 %, Fibrinogen:648 mg/dL, Lactic
   Acid:3.2 mmol/L, Albumin:1.3 g/dL, LDH:435 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.3 mg/dL, PO4:5.1 mg/dL
   Sputum: PSA sensitive to meropenem in sputum
   BCx: NGTD
   CXR: Stable multilobular patchy infiltrates. PTX resolving with CT in
   place.
   Assessment and Plan
   This is an 84 yof with hx of CAD s/p MI, HTN, Hyperlipdemia, PVD, PE
   s/p IVC filter placement, Coomb's positive hemolytic anemia, possible
   CHF who was transferred to [**Hospital1 54**] for respiratory failure. Clinical
   status has continued to decline. At this time she is intubated with
   PNA  with known Pseudamonas and CMV, as well as reported Aspirgillus.
   She also has a  R axillary DVT, and anasarca.
   # Respiratory Failure:  Patient presented to [**Hospital1 54**] intubated in
   respiratory failure presumed [**1-1**] CHF and PNA with elevated BNP and CTA
   showing bilateral consolidations with co-existing ARDS. Patient started
   on empiric antibiotics and ARDS ventilation. At this time sputum is
   positive for Pseudomonas, Aspirgillus, and CMV. ID is consulting. Pt
   receiving pip/tazo, voriconazole. ID will consider gancyclovir. Pt
   developed right-sided PTX today while on the ventilator
 looks like it
   is associated with the pre-existing cavitary lesion in the RLL.
   -          cont assist control ventilation per ARDS protocol. Still
   requiring very high FiO2 with PEEP at 12. Likely has shunt physiology
   still as CXR shows diffuse pulm edema/ARDS. Will attempt to wean down
   FiO2 now that PTX resolving and mucous plug removed.
   -------PTX: Likely the cause of her increased FiO2 requirements as well
   as the pressor requirements. CT surgery was consulted and placed a
   chest tube. Patient
s follow-up CXR showed better aeration throughout
   both lungs. We will follow her O2 requirements and try to wean down the
   FiO2 today now that both lungs are aerating. Will also wean off
   pressors if able.
   ---------PNA: PSA in sputum. Aspirgillus and CMV in BAL sample was per
   phone report, will f/u with cytology/micro, continue voriconazole in
   interim and  cont pip/tazo as sensitive to this antibiotic. Was some
   concern about BM depression with Pip-Tazo but now counts of all cell
   lines recovering so will not switch ABx unless recommended by ID. Will
   culture fluid from chest tube.
   # Shock: With decreaed UOP and increased lactate in setting of ARDS [**1-1**]
   PNA. Most likely septic not cardiogenic as MVO2 77%.  Hypotension
   better with lower HR and removal of mucous plug. Also received multiple
   boluses of fluids and 1unit of blood. CVP still only 8.
   - continues to be hypotensive with position changes
   - Received several fluid boluses and 1unit pRBCs yesterday with only
   minimal effect on MAPs or CVP.
   -will continue to follow the lactate and MvO2 to assess perfusion.
   -Will bolus with NS today to attempt to increase her CVP and therefore
   her CO. Eventually she may require pressors.
   - [**Month (only) 60**] consider amio if has afib with RVR that decreases her MAPs and
   CO.
   # Pan-cytopenia:
   Yesterday seemed to be resolving but may have been intravascularly
   contracted leading to falsely elevated counts as subsequent
   measurements showed a decrease of all counts back to where she had been
   previously.
   For the Anemia: Hx of Coombs positive hemolytic anemia. On solumendrol
   60mg IV daily. Most likely due to toxic metabolic state plus MDS. DD
   includes diffuse alveolar hemorrhage, retroperitoneal hematoma
   -          Received 1U pRBC [**2185-7-17**]. Hct now in 40s although may be
   intravascularly depleted.
   -          transfuse 1 Unit PRBCs [**7-17**], f/u psot-transfusion Hct
   -          cont Solumedrol daily at home dose,  and will wean off as
   able over next few days.
   -          Fe studies and B12 Folate NL.
   -          DIC labs NL
   -          Hemolysis labs NL
   -          H/O following: No BM biopsy now as too unstable.
   For the Thrombocytopenia: persistent this admission. As with anemia,
   most likely due to MDS and toxic metabolic state. HIT seems
   inconsistent in spite of HIT history
   -          Avoid all heparin products
   -          Holding ASA and NSAIDs in general
   -          H/O following.
   -          Vancomycin may have been complicating this. Now D/Ced.
   For the Leukopenia: Still low, but recovered somewhat. Etiology is most
   like MDS and toxic metabolic state, as above. [**Month (only) 60**] consider G-CSF
   -          Etiology unclear.
   -          H/O following
   # RUE Axillary DVT: Red and erythematous at site of old PICC
   -          US yesterday showed an occlussive thrombus of the R axillary
   vein
   -          [**Month (only) 60**] be a chronic problem given report of discoloration from
   family
   -          Consider anticoagulation with argatroban given concern for
   HIT, though will hold off for now, as axillary clots typically stable
   and pt at risk of bleeding from multiple other sources.
   -          Try changing positioning to reduce edema
   # CHF:  Patient with history of CHF, unknown type, EF 50%
   -          ECHO NL with mildly reduced EF
   -          Hold, Aldactone, ACEi, BB
   # CAD s/p MI:  Hx of MI.
   -          Hold ASA given thrombocytopenia
   -          Hold statin, BB, ACEi
   # DM: on metformin at home.
   -          hold metformin while in ICU
   -          Insulin drip for glucose control while on D5 in her fluids
   # PE: history of IVC filter placement per old records
   - no pneumoboots as developed severe ecchymoses in setting of
   pan-cytopenia. No heparin as ?HIT antibody previously
   # HTN: hold home BB, ACEi, Lasix, Aldactone, Diltiazem
   ICU Care
   Nutrition: Will restart tube feeds today.
   Glycemic Control:  Insulin gtt as needed
   Lines:
   Arterial Line - [**2185-7-13**] 12:42 PM
   Multi Lumen - [**2185-7-13**] 02:20 PM
   Prophylaxis:
   DVT:
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI
   Disposition: [**Month (only) 60**] need family meeting today to discuss goals of care as
   patient
s respiratory status is at best stable with ARDS requiring very
   high FiO2 and her MAPS and HR have been difficult to control as well so
   that she may require pressors.

2185-07-19 09:19:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   84 yo women with RLL PNA, AIHA, respiratory failure, PTX.
   24 Hour Events:
 CHEST TUBE PLACED - At [**2185-7-18**] 09:30 AM
   R. sided [**3-5**] intercostal space chest tube for pneumothorax, to
   waterseal, no suction at this time
   Overnight desaturated, hypotensive, tachycardic and responded to
   suction of mucous plug.
   Has had AF with RVR, difficult to control rate.  Increasing lactate.
   Then came out of AF, and pressure
   stablized.  ID recommended meropenem.
   Allergies:
   Hydrochlorothiazide
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2185-7-18**] 02:00 PM
   Meropenem - [**2185-7-19**] 04:42 AM
   Voriconazole - [**2185-7-19**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Dextrose 50% - [**2185-7-18**] 02:19 PM
   Diltiazem - [**2185-7-18**] 06:00 PM
   Metoprolol - [**2185-7-18**] 11:15 PM
   Pantoprazole (Protonix) - [**2185-7-19**] 08:00 AM
   Other medications:
   Protonix
   chlorhex
   solumedrol
   TFs on hold.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-7-19**] 09:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 35.7
C (96.3
   HR: 83 (81 - 152) bpm
   BP: 89/46(61) {72/38(50) - 168/64(98)} mmHg
   RR: 30 (18 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70 kg (admission): 51.9 kg
   Height: 60 Inch
   CVP: 9 (7 - 10)mmHg
   CO/CI (Fick): (6.7 L/min) / (4.6 L/min/m2)
   Mixed Venous O2% Sat: 77 - 77
                                Total In:
                                                                  3,446 mL
                                                                  1,484 mL
   PO:
                                TF:
   IVF:
                                                                  3,161 mL
                                                                  1,474 mL
   Blood products:
                                                                    250 mL
   Total out:
                                                                    422 mL
                                                                    115 mL
   Urine:
                                                                    387 mL
                                                                     75 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,024 mL
                                                                  1,369 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 340 (340 - 340) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 90%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 28 cmH2O
   Plateau: 24 cmH2O
   SpO2: 98%
   ABG: 7.28/37/66/18/-8
   Ve: 10.3 L/min
   PaO2 / FiO2: 73
   Physical Examination
   General Appearance: Thin
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: Right)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.3 g/dL
   35 K/uL
   151 mg/dL
   0.9 mg/dL
   18 mEq/L
   4.1 mEq/L
   60 mg/dL
   109 mEq/L
   141 mEq/L
   33.8 %
   2.7 K/uL
        [image002.jpg]
                             [**2185-7-18**]  03:48 AM
                             [**2185-7-18**]  04:05 AM
                             [**2185-7-18**]  11:25 AM
                             [**2185-7-18**]  08:07 PM
                             [**2185-7-18**]  08:15 PM
                             [**2185-7-18**]  09:20 PM
                             [**2185-7-19**]  12:25 AM
                             [**2185-7-19**]  01:57 AM
                             [**2185-7-19**]  04:26 AM
                             [**2185-7-19**]  04:35 AM
   WBC
   10.0
   2.2
   2.7
   Hct
   41.6
   32.1
   33.1
   33.8
   Plt
   72
   36
   35
   Cr
   0.7
   0.8
   0.9
   TCO2
   24
   20
   19
   20
   18
   Glucose
   104
   202
   179
   161
   156
   151
   Other labs: PT / PTT / INR:14.6/32.7/1.3, CK / CKMB /
   Troponin-T:32//0.06, ALT / AST:29/28, Alk Phos / T Bili:173/1.1,
   Amylase / Lipase:42/12, Differential-Neuts:85.0 %, Band:1.0 %,
   Lymph:8.0 %, Mono:2.0 %, Eos:0.0 %, Fibrinogen:648 mg/dL, Lactic
   Acid:3.2 mmol/L, Albumin:1.3 g/dL, LDH:435 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.3 mg/dL, PO4:5.1 mg/dL
   Imaging: CXR: stable multilobar infiltrates
   Microbiology: sputum with PSA.
   Assessment and Plan
   Respiratory failure:  Multilobar PNA, ARDS.  PSA and aspergillus.
   Little improvement.   Continue meropenem and voriconazole.
   Shock:  Poor urine output.  CVP is low, will try to give IVF boluses to
   improve.
   Acute renal failure:  Due to shock.
   Pancytopenia:   Likely has MDS.
   AIHA:  taper steroids slowly.
   Can restart TFs
   Very poor prognosis will try to arrange family meeting today.
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Arterial Line - [**2185-7-13**] 12:42 PM
   Multi Lumen - [**2185-7-13**] 02:20 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill